US07648986B2
Step 4: Preparation of 2-(1-benzothien-2-yl)-4-chloropyrido[2,3-d]pyrimidine
To a suspension of 2-(1-benzothien-2-yl)pyrido[2,3-d]pyrimidin-4-ol (150 mg, 0.54 mmol) in chloroform (10 mL) was added thionyl chloride (0.47 mL, 6.4 mmol) and a catalytic amount of DMF. The reaction was heated to reflux for 4 h and allowed to cool to rt. The solvent was removed under reduced pressure and the resultant product was (18.2 mg, 12%) used directly in the next step without further purification. HPLC/MS: (M+H)+ 298.2 m/z; Retention time (LC-MS)=3.76 min; 1H NMR (DMSO)-D6): 9.24(1H, m); 8.73(1H, d); 8.55(1H, s); 8.10(2H, t); 7.86(1H, m); 7.50(2H, m).

reactant | 2-(1-benzothien-2-yl)pyrido[2,3-d]pyrimidin-4-ol | 0.54 mmol, 150 mg | S1C(=CC2=C1C=CC=C2)C=2N=C(C1=C(N2)N=CC=C1)O | C15H9N3OS
reactant | thionyl chloride | 6.4 mmol, 0.47 mL | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | CN(C)C=O | C3H7NO
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(1-benzothien-2-yl)-4-chloropyrido[2,3-d]pyrimidine | S1C(=CC2=C1C=CC=C2)C=2N=C(C1=C(N2)N=CC=C1)Cl | C15H8ClN3S
